US07795257B2
G. 4-{4-[2-Cyclopentyl-1-(5-morpholin-4-yl-thiazolo[5,4-b]pyridin-2-ylcarbamoyl)-ethyl]-benzenesulfonyl}-piperazine-1-carboxylic Acid Tert-butyl Ester
To title compound F, 4-{4-[1-(5-Bromo-thiazolo[5,4-b]pyridin-2-ylcarbamoyl)-2-cyclopentyl-ethyl]-benzenesulfonyl}-piperazine-1-carboxylic acid tert-butyl ester (0.1 g, 0.148 mmol) in a microwave vial was added Pd2 dba3 (0.013 g, 0.0148 mmol), Xanphos (0.011 g, 0.0295 mmol), sodium t-butoxide (0.028 g, 0.295 mmol), morpholine (0.019 g, 0.222 mmol), 2 mL toluene and 1 mL t-butanol. The sealed container was heated to 160° C. for 5 minutes in a microwave reactor. Workup entailed quenching into water and extraction with ethyl acetate. The combined organic layer was dried over MgSO4, filtered and evaporated to afford a yellow oil. Purification on silica (EtOAc/hexane) afforded the product as an oil. 1H NMR (400 MHz, CDCl3) δ 1.12 (m, 2H) 1.39 (s, 9H) 1.48 (m, 2H) 1.62 (m, 3H) 1.73 (m, 2H) 1.90 (m, 1H) 2.24 (m, 1H) 3.01 (s, 4H) 3.51 (s, 4H) 3.54-3.58 (m, 4H) 3.65 (m, 1H) 3.80-3.87 (m, 4H) 6.73 (s, 1H) 7.50 (d, J=8.34 Hz, 2H) 7.73 (d, J=8.08 Hz, 3H) MS 685.3 [M+1]+.

reactant | 4-{4-[1-(5-Bromo-thiazolo[5,4-b]pyridin-2-ylcarbamoyl)-2-cyclopentyl-ethyl]-benzenesulfonyl}-piperazine-1-carboxylic acid tert-butyl ester | 0.148 mmol, 0.1 g | C(C)(C)(C)OC(=O)N1CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)C(CC1CCCC1)C(NC=1SC2=NC(=CC=C2N1)Br)=O | C29H36BrN5O5S2
reactant | sodium t-butoxide | 0.295 mmol, 0.028 g | CC(C)([O-])C.[Na+]
reactant | morpholine | 0.222 mmol, 0.019 g | N1CCOCC1 | C4H9NO
reactant | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2 dba3 | 0.0148 mmol, 0.013 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | t-butanol | 1 mL | C(C)(C)(C)O | C4H10O
product | 4-{4-[2-Cyclopentyl-1-(5-morpholin-4-yl-thiazolo[5,4-b]pyridin-2-ylcarbamoyl)-ethyl]-benzenesulfonyl}-piperazine-1-carboxylic Acid Tert-butyl Ester | C(C)(C)(C)OC(=O)N1CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)C(CC1CCCC1)C(NC=1SC2=NC(=CC=C2N1)N1CCOCC1)=O | C33H44N6O6S2
